data/mechanism_extracts/GreenChem/10.1039_D2GC01932A.json
{"doi": "10.1039_D2GC01932A", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical thiocyanation of enamides with NH4SCN to afford E-configured vinyl thiocyanates", "mechanism_family": ["radical_anodic", "mediator_anodic"], "electrochemical_role": "Anodic oxidation of SCN- (from NH4SCN) generates the thiocyanate radical (·SCN), which adds to the enamide; cathode reduces protons to H2", "key_intermediates": [{"name": "thiocyanate radical (·SCN, in equilibrium with NCS-SCN)", "smiles": "[S]C#N", "role": "reactive"}, {"name": "Intermediate A: N-centered radical cation from SCN addition to enamide alpha-carbon", "smiles": null, "role": "transient"}, {"name": "Intermediate B: alpha-SCN iminium after H loss/tautomer (rotational isomer)", "smiles": null, "role": "reactive"}, {"name": "Intermediate C: rotational isomer of B (precursor to [1,5]-H shift)", "smiles": null, "role": "reactive"}, {"name": "Intermediate D: enol/iminium after [1,5]-H sigmatropic rearrangement", "smiles": null, "role": "transient"}, {"name": "E-vinyl thiocyanate product (3aa)", "smiles": null, "role": "reactive"}], "electron_flow": "SCN- is anodically oxidized to ·SCN (in equilibrium with NCS-SCN), which adds to the enamide alkene to give a nitrogen-stabilized radical/iminium intermediate A; loss of a proton and bond rotation gives isomers B/C, and a [1,5]-H sigmatropic rearrangement (path I) followed by deprotonation delivers the E-vinyl thiocyanate, while protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "DPE-SCN adduct 9 formed and only trace 3aa observed, supporting a free ·SCN radical intermediate"}, {"name": "Cyclic enamide 10 (mechanistic probe)", "smiles": null, "purpose": "intermediate_trap", "observation": "Thiocyanation of cyclic enamide 10 gave 11 as E/Z = 10:1 mixture (E confirmed by X-ray), consistent with [1,5]-H sigmatropic rearrangement (path I) controlling E-selectivity"}, {"name": "NH4SCN (2a) — cyclic voltammetry", "smiles": "[NH4+].[S-]C#N", "purpose": "redox_probe", "observation": "Quasi-reversible oxidation at Epa = 1.12 V vs Ag/AgCl, much lower than enamide 1a (2.28 V), indicating SCN- is oxidized first to generate ·SCN"}, {"name": "Enamide 1a — cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "Irreversible oxidation at 2.28 V vs Ag/AgCl, higher than NH4SCN, so 1a is not the species oxidized at the anode"}], "evidence_types_used": ["intermediate_trap_other", "cyclic_voltammetry", "isolation_of_intermediate", "crossover"], "evidence_strength": "medium", "notes": "Two pathways considered for E-selectivity: path I via [1,5]-H sigmatropic rearrangement of rotamer C (favored, consistent with E-selectivity of cyclic enamide 10 product 11), and path II via direct deprotonation of rotamer B where steric clash between N-benzyl and SCN would favor the E-isomer. Authors favor path I for acyclic enamides based on the cyclic substrate experiment."}
